US07371753B2
c) 2-methoxy-4-(4-pyrrolidin-1-yl-piperidin-1-yl)-phenylamine
321 mg (1.053 mmol) 1-(3-methoxy-4-nitro-phenyl)-4-pyrrolidin-1-yl-piperidine are dissolved in 10 ml THF, combined with 30 mg Raney nickel and then shaken for 9 days at 20° C. under 4 bar hydrogen atmosphere. The catalyst is filtered off and washed again with THF. The solvent is eliminated in vacuo.

reactant | 1-(3-methoxy-4-nitro-phenyl)-4-pyrrolidin-1-yl-piperidine | 1.053 mmol, 321 mg | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)N1CCCC1 | C16H23N3O3
reactant | hydrogen | [H][H] | H2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | 30 mg | [Ni] | Ni
product | 2-methoxy-4-(4-pyrrolidin-1-yl-piperidin-1-yl)-phenylamine | COC1=C(C=CC(=C1)N1CCC(CC1)N1CCCC1)N | C16H25N3O
